US08236749B2
2,5,6,6-Tetramethyl-cyclohexene carbaldehyde (64/7/29 trans 2-ene/cis 2-ene/1-ene isomers mixture) (1660 g, 10 mol., 1 eq.), ethylene glycol (1240 g, 20 mol., 2 eq.), cyclohexane (1660 g) and p-toluene sulfonic acid monohydrate (7.6 g, 0.04 mol., 0.004 eq.) were loaded altogether in a 10 liter schmizo type reactor equipped with a heating circulator, temperature probe, mechanical stirring device and a Dean-stark apparatus. The biphasic mixture was heated to reflux under vigorous stirring with azeotropic water removal from reaction mixture. After 8 hours reflux the reaction was then cooled down to room temperature. After decantation of the bottom phase containing excess ethylene glycol and p-toluene sulfonic acid the upper phase was concentrated under vacuum in order to remove cyclohexane and crude 2-(2,5,6,6-tetramethyl-cyclohexenyl)-1,3-dioxolane was obtained in 80% GC purity as a 80/7/13 trans 2-enyl/cis 2-en/1-enyl isomers mixture. Flash distillation afforded 1940 g of 2-(2,5,6,6-tetramethyl-cyclohexenyl)-1,3-dioxolane along with 60 g of residual heavy by-products formed during the reaction.

reactant | 2,5,6,6-Tetramethyl-cyclohexene carbaldehyde | 10 mol, 1660 g, 1 eq. | CC1=C(C(C(CC1)C)(C)C)C=O | C11H18O
reactant | cyclohexane | 1660 g | C1CCCCC1 | C6H12
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | p-toluene sulfonic acid monohydrate | 0.04 mol, 7.6 g, 0.004 eq. | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | ethylene glycol | C(CO)O | C2H6O2
solvent | water | O | H2O
solvent | ethylene glycol | 20 mol, 1240 g, 2 eq. | C(CO)O | C2H6O2
product | 2-(2,5,6,6-tetramethyl-cyclohexenyl)-1,3-dioxolane | 1940 g | CC1=C(C(C(CC1)C)(C)C)C1OCCO1 | C13H22O2
